US07153968B2
Step 1: 3-(4-Bromo-phenyl)-propionic acid tert-butyl ester
To a solution of cyclohexyl-isopropyl-amine (1.0 eq.) in THF (2.0M) at −78° C. was added dropwise n-BuLi (0.95eq.). The mixture was stirred at −78° C. for 20 min then a solution of acetic acid tert-butyl ester (1.0 eq.) in THF (5.0M) was added dropwise. The resulting mixture was stirred at −78° C. for 1 h. A solution of 4-bromobenzyl bromide (0.9eq.) in THF (5.0M) was then added dropwise and the final mixture was warm slowly to rt and stirred for 12 h. The reaction was quenched with cold aqueous HCl (1M), diluted water and extracted with Et2O (2×). The combined organic extracts were washed with HCl (1M), brine, dried over Na2SO4, filtered and concentrated. The residue was distilled under vacuum (95° C., 0.4 mmHg) to afford the title compound as a colorless oil.

reactant | cyclohexyl-isopropyl-amine | 1.0 eq. | C1(CCCCC1)NC(C)C | C9H19N
reactant | n-BuLi | 0.95eq. | [Li]CCCC
reactant | acetic acid tert-butyl ester | 1.0 eq. | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | 4-bromobenzyl bromide | 0.9eq. | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | THF | 2.0M | C1CCOC1 | C4H8O
solvent | THF | 5.0M | C1CCOC1 | C4H8O
solvent | THF | 5.0M | C1CCOC1 | C4H8O
product | 3-(4-Bromo-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=CC=C(C=C1)Br)=O | C13H17BrO2
